US07323455B2
5-(5,5-Dimethyl-2-oxo-1,2,3,5-tetrahydro-4,1-benzoxazepin-7-yl)-4-methylthiophene-2-carbonitrile
Prepared from 7-bromo-5,5-dimethyl-1,5-dihydro-4,1-benzoxazepin-2(3H)-one and 5-bromo-4-methyl-thiophene-2-carbonitrile using the coupling procedures in examples 82 and 1. 1H-NMR (DMSO-d6) δ 10.13 (s, 1H), 7.87 (s, 1H), 7.41-7.36 (m, 2H), 7.22 (d, J=8.32 Hz, 1H), 4.29 (s, 2H), 2.29 (s, 3H), 1.58 (s, 6H); MS (FI) m/z 311 ([M−H]−, 20%).

reactant | 7-bromo-5,5-dimethyl-1,5-dihydro-4,1-benzoxazepin-2(3H)-one | BrC=1C=CC2=C(C(OCC(N2)=O)(C)C)C1 | C11H12BrNO2
reactant | 5-bromo-4-methyl-thiophene-2-carbonitrile | BrC1=C(C=C(S1)C#N)C | C6H4BrNS
product | 5-(5,5-Dimethyl-2-oxo-1,2,3,5-tetrahydro-4,1-benzoxazepin-7-yl)-4-methylthiophene-2-carbonitrile | CC1(OCC(NC2=C1C=C(C=C2)C2=C(C=C(S2)C#N)C)=O)C | C17H16N2O2S
